US04683000
2-Methylindoline
To a solution of 2-methylindole (61.2 g) in acetic acid (525 g) at 15° C. was added sodium cyanoborohydride (81 g) in portions. The reaction was then drowned in ice and water (1500 g) and the aqueous solution neutralized with sodium hydroxide (350 g). The mixture was extracted with 3 portions of ether (300 ml). The ether fractions were water washed, dried, and evaporated to give 57.4 g of an oil which was identical with an authentic sample by IR and TLC.

reactant | 2-methylindole | 61.2 g | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | sodium cyanoborohydride | 81 g | C(#N)[BH3-].[Na+]
reactant | water | 1500 g | O | H2O
reactant | sodium hydroxide | 350 g | [OH-].[Na+]
solvent | acetic acid | 525 g | C(C)(=O)O | C2H4O2
product | 2-Methylindoline | 57.4 g | CC1NC2=CC=CC=C2C1 | C9H11N
